US06861438B2
2-{[[2-(1,3-Benzodioxol-5-yl)-2-hydroxyethyl](methyl)amino]methyl}-N-(4-chlorobenzyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (80 mg, 0.21 mmol), 1-(1,3-benzodioxol-5-yl)-2-(methylamino)ethanol (Journal of Organometallic Chemistry, 1998, 339, 267-75) (62 mg, 0.32 mmol) and diisopropylethylamine (67 μL, 0.38 mmol) in dry DMF (5 mL) was heated to 60° C., becoming a solution. The reaction was stirred for 5 hours at that temperature. After cooling to room temperature, the solution was diluted with water (15 mL). The resulting milky suspension was stirred vigorously for 30 minutes, and then left standing overnight in the refrigerator. The mixture was filtered, and the collected solid was washed with water and dried in vacuo, leaving a white solid. Recrystallization from acetonitrile/water (dissolved with warming 3 mL of acetonitrile, then cooled to 0° C. and then diluted with 2 mL of water, left overnight) gave the title compound (74 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.21 mmol, 80 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C=C(S3)CCl)=O)C=C1 | C17H14Cl2N2O2S
reactant | 1-(1,3-benzodioxol-5-yl)-2-(methylamino)ethanol | 0.32 mmol, 62 mg | O1COC2=C1C=CC(=C2)C(CNC)O | C10H13NO3
reactant | diisopropylethylamine | 0.38 mmol, 67 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | 2-{[[2-(1,3-Benzodioxol-5-yl)-2-hydroxyethyl](methyl)amino]methyl}-N-(4-chlorobenzyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 74 mg | O1COC2=C1C=CC(=C2)C(CN(C)CC2=CC=1N(C=C(C(C1S2)=O)C(=O)NCC2=CC=C(C=C2)Cl)C)O | C27H26ClN3O5S
